US04346161
F. 1-Benzoyloxy-4-(3-bromoacetylbenzenesulfonamido)-N,N-dioctadecyl-2-naphthamide
A solution of 15.7 g (15.7 mmol) of 1-benzoyloxy-4-(3-acetylbenzenesulfonamido)-N,N-dioctadecyl-2-naphthamide in 150 ml of dioxane was treated with 2.51 g (15.7 mmoles) of bromine at 40° to 45° C. The reaction was held for one hour at this temperature, during which time the bromine color discharged. Analysis by TLC (25 percent acetone in hexane) indicated a complete reaction and only one main product was observed. The solution was drowned to ice water and the resulting mixture was extracted with chloroform. The chloroform extracts were combined and washed well with water, dried (MgSO4), and stripped to give 15 g (89 percent) of an oil which was used without further purification.

reactant | 1-benzoyloxy-4-(3-acetylbenzenesulfonamido)-N,N-dioctadecyl-2-naphthamide | 15.7 mmol, 15.7 g | C(C1=CC=CC=C1)(=O)OC1=C(C=C(C2=CC=CC=C12)NS(=O)(=O)C1=CC(=CC=C1)C(C)=O)C(=O)N(CCCCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCCCC | C62H92N2O6S
reactant | bromine | 15.7 mmoles, 2.51 g | BrBr | Br2
reactant | acetone | CC(=O)C | C3H6O
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 1-Benzoyloxy-4-(3-bromoacetylbenzenesulfonamido)-N,N-dioctadecyl-2-naphthamide | 15 g, 89 percent | C(C1=CC=CC=C1)(=O)OC1=C(C=C(C2=CC=CC=C12)NS(=O)(=O)C1=CC(=CC=C1)C(CBr)=O)C(=O)N(CCCCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCCCC | C62H91BrN2O6S
